US09062015B2
FS216: 1-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidin-2-yl]-piperidin-4-ylamine
The above compound is prepared analogously to FS201 {1-[4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidin-2-yl]piperidin-4-yl}carbamic acid tert-butyl ester. The product is in the form of the hydrochloride.

reactant | {1-[4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidin-2-yl]piperidin-4-yl}carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=CC(=N1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O | C28H40N4O2
reactant | hydrochloride | Cl | ClH
product | 1-[4-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyrimidin-2-yl]-piperidin-4-ylamine | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=NC(=NC=C1)N1CCC(CC1)N)C | C23H32N4
